data/mechanism_extracts/JACS/10.1021_jacs.3c04864_sup_1.json
{"doi": "10.1021_jacs.3c04864_sup_1", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical allylation and allenylation of aldehydes (benzaldehyde) with allylarenes/propargylarenes via cathodically generated allylic/propargylic carbanions under Co-salen/DABCO catalysis", "mechanism_family": ["anion_initiated", "mediator_cathodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Cathodic reduction generates a Co(II)-salen / Co(III)-H species that deprotonates the weakly acidic allyl/propargyl C-H of the substrate (HER-type), delivering an allylic or propargylic carbanion that adds to the aldehyde; sacrificial anode oxidation balances charge", "key_intermediates": [{"name": "allylic carbanion (from allylarene 1a)", "smiles": "[CH-]/C=C/c1ccccc1", "role": "reactive"}, {"name": "propargylic / allenyl carbanion (from propargylarene 4a)", "smiles": null, "role": "reactive"}, {"name": "Co(III)-H (radical-like cobalt hydride mediator)", "smiles": null, "role": "transient"}, {"name": "alkoxide adduct (3a/5a-alkoxide after C-C bond formation)", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces Co(II)-salen / generates Co(III)-H that abstracts a proton from the weakly acidic benzylic/propargylic C-H of the substrate (HER-like, mediated), producing an allylic or propargylic carbanion that nucleophilically adds to benzaldehyde to give the homoallylic alcohol (3a) or α-allenyl alcohol (5a); the anode supplies the balancing oxidation.", "rate_determining_step": "Proton transfer in the HER/deprotonation step generating the carbanion (consistent with observed secondary KIE in parallel experiments)", "probe_reagents": [{"name": "cyclopropyl-substituted substrates (radical clock 3bm-3br, 5bd, 5be)", "smiles": null, "purpose": "radical_clock", "observation": "No ring-opening products observed; cyclopropyl group retained in all products, arguing against radical intermediates and supporting an ionic (carbanion) pathway"}, {"name": "HOAc", "smiles": "CC(=O)O", "purpose": "intermediate_trap", "observation": "Suppresses reaction to trace yield — acidic additive preferentially undergoes HER over substrate deprotonation"}, {"name": "MeOH", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Reduces yield (32%/12% for 3a/5a Cond II) — competing HER of acidic additive"}, {"name": "H2O", "smiles": "O", "purpose": "intermediate_trap", "observation": "Reduces yield (40%/25%) — competing HER consistent with carbanion mechanism"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Only marginal effect on yield (68-73%), inconsistent with radical chain"}, {"name": "P(OEt)3", "smiles": "CCOP(OCC)OCC", "purpose": "intermediate_trap", "observation": "Significant yield erosion (21%/48% / 50%) attributed to nucleophilic addition of carbanion to P(OEt)3, supporting carbanion intermediate"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "No D incorporation in allylation product 3a; 0.48 D incorporated at allene carbon of 5a — propargylic carbanion has lower reactivity and undergoes reversible H/D exchange at cathode, whereas allylic carbanion adds to aldehyde faster than exchange"}, {"name": "4a-d5 (CD3-labeled propargylarene)", "smiles": null, "purpose": "isotope_label", "observation": "5a-d4 product shows 0.25 D at benzylic position and 0.72 D at allene terminus (D depleted from CD3 source) — supports H/D exchange via carbanion"}, {"name": "1be-d2 / 4a-d5 KIE substrates", "smiles": null, "purpose": "KIE", "observation": "Parallel KIE kH/kD = 1.3/1 (allyl) and 1.5/1 (propargyl) — secondary KIE consistent with proton transfer in HER; intermolecular competition gives kH/kD = 3.3/1 and 4.3/1, discrepancy attributed to rapid H/D exchange of the carbanion"}], "evidence_types_used": ["KIE", "H/D_labeling", "radical_clock", "intermediate_trap_other", "DFT", "kinetic_order", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "DFT (PBE0-D3(BJ)/ma-def2-TZVPP//B3LYP-D3(BJ)/Def2-SVP, SMD DMF) supports nucleophilic addition of allyl/allenyl carbanion to PhCHO: for allylation, the E-pathway is favored (TS1(E) 4.3 kcal/mol; 3a(E) -2.8 kcal/mol) over Z and over a homoallyl regioisomer (TS2 8.9 kcal/mol giving 3a'); for allenylation, addition through the central allenyl C is preferred (TS3 ~1.5-2.6 kcal/mol) giving 5a over the propargylic isomer 5a'. A radical pathway via Co(III)-H HAT was considered but excluded by radical clock and trap experiments; the authors note radical-like Co(III)-H species may still be affected by radical scavengers, explaining the partial yield drop with P(OEt)3."}
